US05104866
7-[2-Allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)-acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate (syn isomer) (4 g) was dissolved in 0.2 N hydrochloric acid (40 ml). The mixture was lyophilized to give 7-[2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido ]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate hydrochloride (syn isomer) (4.0 g).

reactant | 7-[2-Allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)-acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate | 4 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)N | C20H19N7O5S2
reactant | hydrochloric acid | 0.2 N, 40 ml | Cl | ClH
product | 7-[2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido ]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate hydrochloride | 4.0 g | Cl.C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)N | InChI=1S/C20H19N7O5S2.ClH/c1-2-8-32-24-12(15-23-20(21)34-25-15)16(28)22-13-17(29)27-14(19(30)31)11(10-33-18(13)27)9-26-6-4-3-5-7-26;/h2-7,13,18H,1,8-10H2,(H3-,21,22,23,25,28,30,31);1H/t13?,18-;/m1./s1
